US06043366
8-Cyclodecyl-3-(3-methoxy-benzyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 175° C. and MS: m/e=490.4 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 3-methoxybenzylchloride.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 3-methoxybenzylchloride | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | 8-Cyclodecyl-3-(3-methoxy-benzyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CC2=CC(=CC=C2)OC)=O)CC1 | InChI=1S/C31H43N3O2.ClH/c1-36-29-18-12-13-26(23-29)24-33-25-34(28-16-10-7-11-17-28)31(30(33)35)19-21-32(22-20-31)27-14-8-5-3-2-4-6-9-15-27;/h7,10-13,16-18,23,27H,2-6,8-9,14-15,19-22,24-25H2,1H3;1H
